US09227982B2
Intermediate 2: Benzyl 2-amino-2-iminoethylcarbamate hydrochloride
To a solution of benzyl cyanomethylcarbamate (65.4 g, 344 mmol) in methanol was added sodium methoxide (7.86 mL, 34.4 mmol, 25% in methanol). The mixture was stirred at ambient temperature for 24 h. Ammonium chloride (18.4 g, 344 mmol) was then added. The mixture was stirred at ambient temperature for another 24 h, and concentrated under reduced pressure. The resulting material was added into hexane/ethyl acetate (1:1) (240 mL) and ether (50 mL), stirred at ambient temperature for 1.5 h, then filtered to provide the title compound as a pale colored solid (78.8 g, 94% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.79 (br. s., 4H), 7.78 (t, J=5.5 Hz, 1H), 7.24-7.47 (m, 5H), 5.07 (s, 2H), 3.98 (d, J=5.5 Hz, 2H). MS m/z 208.2 (M+1), retention time=0.64 min.

reactant | benzyl cyanomethylcarbamate | 344 mmol, 65.4 g | C(#N)CNC(OCC1=CC=CC=C1)=O | C10H10N2O2
reactant | sodium methoxide | 34.4 mmol, 7.86 mL | C[O-].[Na+]
reactant | Ammonium chloride | 344 mmol, 18.4 g | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | Benzyl 2-amino-2-iminoethylcarbamate hydrochloride | 78.8 g, 94% yield | Cl.NC(CNC(OCC1=CC=CC=C1)=O)=N | InChI=1S/C10H13N3O2.ClH/c11-9(12)6-13-10(14)15-7-8-4-2-1-3-5-8;/h1-5H,6-7H2,(H3,11,12)(H,13,14);1H
